US04111923
(h) L-Tryptophyl-L-seryl-L-tyrosyl-D-phenylalanyl-L-leucine methyl ester
Nα -benzyloxycarbonyl-L-tryptophyl-L-seryl-L-tyrosyl-D-phenylalanyl-L-leucine methyl ester, 6.0 g., is dissolved in 140 ml. of absolute methanol and 800 mg. of 20% palladium on carbon added. The mixture is reduced under a hydrogen atmosphere, monitoring by thin layer chromatography. The catalyst is removed by filtration using a filter aid (Super-Cel). The solvent is evaporated to leave a solid residue which is dried under reduced pressure and used without further treatment.

reactant | Nα -benzyloxycarbonyl-L-tryptophyl-L-seryl-L-tyrosyl-D-phenylalanyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)=O)CO)=O)CC1=CC=C(C=C1)O)=O)CC1=CC=CC=C1)=O)CC(C)C)=O | C47H54N6O10
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | L-Tryptophyl-L-seryl-L-tyrosyl-D-phenylalanyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC([C@@H](NC([C@@H](NC([C@@H](N)CC1=CNC2=CC=CC=C12)=O)CO)=O)CC1=CC=C(C=C1)O)=O)CC1=CC=CC=C1)=O)CC(C)C)=O | C39H48N6O8
